US07435731B2
(R)-1-(3-Cyclopentyl-6-methylsulfonyl-1H-pyrazolo[3,4-d]pyrimidin-4-ylamino)-propan-2-ol was treated with 2,4-difluorophenol in the presence of KOH using the procedure of step 6 of Example 4 to afford 0.56 mg of (R)-1-[3-Cyclopentyl-6-(2,4-difluoro-phenoxy)-1H-pyrazolo[3,4-d]pyrimidin-4-ylamino]-propan-2-ol. Mass Spec. M+H=390.

reactant | (R)-1-(3-Cyclopentyl-6-methylsulfonyl-1H-pyrazolo[3,4-d]pyrimidin-4-ylamino)-propan-2-ol | C1(CCCC1)C1=NNC2=NC(=NC(=C21)NC[C@@H](C)O)S(=O)(=O)C | C14H21N5O3S
reactant | 2,4-difluorophenol | FC1=C(C=CC(=C1)F)O | C6H4F2O
reactant | KOH | [OH-].[K+]
product | (R)-1-[3-Cyclopentyl-6-(2,4-difluoro-phenoxy)-1H-pyrazolo[3,4-d]pyrimidin-4-ylamino]-propan-2-ol | 0.56 mg | C1(CCCC1)C1=NNC2=NC(=NC(=C21)NC[C@@H](C)O)OC2=C(C=C(C=C2)F)F | C19H21F2N5O2
